US08258130B2
A solution of 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (278 mg, 1.2 mmol) and 4-(1-amino-5-fluoro-1H-indol-3-yl)-2-methyl-butan-2-ol (1.2 mmol) in DMF (10 mL) is stirred at 50° C. for 1 h. The mixture is treated with DMTMM (331 mg, 1.2 mmol) and stirred at 50° C. for 1 h. The mixture is concentrated in vacuo, diluted with saturated aqueous Na2CO3 (50 mL), and extracted with EtOAc (3×50 mL). The combined organic layer is dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 50% EtOAc in heptane to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid [5-fluoro-3-(3-hydroxy-3-methyl-butyl)-indol-1-yl]-amide (330 mg, 61%). MS: 451 (M+H); 1H NMR (300 MHz, CD3OD): δ 9.10 (s, 1H), 8.36 (d, 1H), 8.23 (d, 1H), 7.55 (m, 1H), 7.32 (m, 3H), 7.18 (s, 1H), 7.03 (m, 1H), 3.91 (s, OH, 1H), 2.84 (s, 3H), 2.82 (m, 2H), 1.91 (m, 2H), 1.31 (s, 6H).

reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid | 1.2 mmol, 278 mg | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)O | C12H9FN2O2
reactant | 4-(1-amino-5-fluoro-1H-indol-3-yl)-2-methyl-butan-2-ol | 1.2 mmol | NN1C=C(C2=CC(=CC=C12)F)CCC(C)(O)C | C13H17FN2O
reactant | DMTMM | 1.2 mmol, 331 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid [5-fluoro-3-(3-hydroxy-3-methyl-butyl)-indol-1-yl]-amide | 330 mg, 61% | FC=1C=C2C(=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C)CCC(C)(C)O | C25H24F2N4O2
